US07560558B2
Compound 121: 1-(2-{[7-(3-Chloropropoxy)-6-methoxy-4-quinolyl]oxy}-5-methoxyphenyl)-1-ethanone
1-{2-[(7-Hydroxy-6-methoxy-4-quinolyl)oxy]-5-methoxyphenyl}-1-ethanone (100 mg), 1-bromo-3-chloropropane (138 mg), and potassium carbonate (204 mg) were suspended in N,N-dimethylformamide (3 ml), and the suspension was stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-hexane to give the title compound (123 mg, yield 34%).

reactant | 1-{2-[(7-Hydroxy-6-methoxy-4-quinolyl)oxy]-5-methoxyphenyl}-1-ethanone | 100 mg | OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)OC)C(C)=O)OC | C19H17NO5
reactant | 1-bromo-3-chloropropane | 138 mg | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 204 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-(2-{[7-(3-Chloropropoxy)-6-methoxy-4-quinolyl]oxy}-5-methoxyphenyl)-1-ethanone | 123 mg, yield 34% | ClCCCOC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)OC)C(C)=O)OC | C22H22ClNO5
